US04443243
(a) 2-Propargyloxyphenylsulfonamide
A mixture of 35 g of 2-hydroxyphenylsulfonamide, 55.2 g of potassium carbonate, 15.5 ml of propargyl bromide and 1000 ml of ethyl methyl ketone is refluxed for 1.5 hours; it is then cooled, filtered, and concentrated by evaporation. The yield after recrystallisation of the residue from ethyl acetate is 30 g of 2-propargyloxyphenylsulfonamide, m.p. 143°-145° C.

reactant | 2-hydroxyphenylsulfonamide | 35 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium carbonate | 55.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 15.5 ml | C(C#C)Br | C3H3Br
solvent | ethyl methyl ketone | 1000 ml | CC(=O)CC | C4H8O
product | 2-Propargyloxyphenylsulfonamide | C(C#C)OC1=C(C=CC=C1)S(=O)(=O)N | C9H9NO3S
